US06503198B1
Generally speaking, in an alanine aminotransferase (ALT/GPT) assay, the enzyme reacts with alanine and alpha-ketoglutarate to form pyruvate and glutamate. The pyruvate that forms reacts with 2,4-dinitro phenylhydrazine that is colored at 490-520 nm. High levels of alanine aminotransferase are associated with hepatitis and other liver diseases. In an aspartate aminotransferase (AST/GOT) assay, the enzyme reacts with aspartate 1 and 2-oxoglutarate to form oxaloacetate and glutamate. The oxaloacetate that forms reacts with 2,4-dinitro phenylhydrazine that is colored at 490-520 nm. High levels of oxaloacetate are associated with myocardial infarction hepatitis and other liver diseases as well as muscular dystrophy dermatomyositis. In an albumin assay, bromcresol purple binds quantitatively with human serum albumin forming a stable complex with maximum absorbance at 600 nm. Low levels of human serum albumin are associated with liver disease, nephrotic syndrome, malnutrition and protein enteropathies. High levels of human serum albumin are consistent with dehydration. Prealbumin may be of diagnostic value for diabetes and malnutrition. Normal values are 3-5 gm/dl (30-50gm/L). Critical limits for children are lows of 10-25 gm/L or highs of 60-80 gm/L. In a bilirubin assay, diazotized sulfanilic acid reacts quantitatively with conjugated bilirubin forming azobilirubin with maximum absorbance at 560 nm. High levels of bilirubin are associated with biliary obstruction and hepatocellular disease. In the presence of dimethyl sulfoxide (DMSO) both conjugated (direct) and unconjugated (free), bilirubin reacts and is then indicative of hemolytic disorders in adults and newborns. Critical limits for adults are highs of 5-30 mg/dl (86-513 micromol/L) and 86-342 micromol/L for children; normal levels are up to 0.3 mg/dl serum conjugated, but 1-12 mg/dl (96-308 micromol/L) for newborns. Patches in accordance with the present invention, after a few minutes, would read 1/50th of these values. In a chloride assay, mercuric thioisocyanate reacts with chloride ions to give mercuric chloride, the thiocyanate produced reacts with iron to give a reddish brown product. Low levels of chloride ions are associated with gastrointestinal or salt losing nephritis, Addisons disease. High levels are associated with heart failure and Cushing's syndrome. The critical limits are 60-90 mmol/L (1/50th of that is to be expected in a patch of the present invention). Normal levels are 95-103 mEq./L). In a cholesterol, total assay, cholesterol esters are reacted with cholesterol esterase. The total free cholesterol is further reacted with cholesterol oxides which in turn generates peroxide detected with peroxidase coupled to a colored dye O-Tolidine. Increased levels of cholesterol are associated with atherosclerosis, nephrosis, diabetes mellitus, myxedema, and obstructive jaundice. Decreased levels of cholesterol are observed in hyperthyroidism, anemia, malabsorption and wasting syndromes. Normal values are 150-250 mg/dl. (varies with diet and age). Values above 200 mg/dl would suggest consulting a physician. In a fructose amine assay, fructose amine reduces nitrotetrazolium blue at alkaline pH. Fructose amine is useful in the management of diabetes mellitus. Levels are indicative of glucose control. In a lactic acid assay, porcine lactate dehydrogenase (Boehringer Mannehim) reacts with lactate in the presence of nicotinamide adeninine dinucleotide (NAD) to produce NADH (NAD reduced) plus pyruvate. The NADH is then detected by using the enzyme diaphorase (Unitika) to react with a tetrazolium salt producing a colored formazan. The color produced is directly proportional to the lactic acid concentration. Lactic acid is useful in critical care situations, as a measure of the success of supportive therapies to predict the mortality rate. High levels correlate with severity of clinical outcome. Blood lactate has become a prognostic indicator of survival in patients with acute myocardial infarction and is also used as an indicator of severe neonatal asphyxia. Lactic acidosis is also found in patients with diabetes mellitus and hepatic failure. Can be used in sports medicine to evaluate endurance and fitness. Normal values are 5-20 mg/dl in venous blood; lower (3-7 mg/dl) in arterial blood. Critical limits are highs of 20.7-45 mg/dl (2.3-5.0 mmol/L). In a potassium assay, ion specific electrodes have become stable and sensitive enough to be used to detect the levels expected in a patch (critical limits are 1/50th of that found in the blood: i.e., 0.05-0.07 mmol/L) after a few minutes skin contact. Potassium is useful in critical care situations as a measure of the success of supportive therapies to predict the mortality rate. High levels of potassium correlate with severity of clinical outcome. Blood potassium has become a prognostic indicator of survival in patients with acute myocardial infarction. The normal values are 3.8-5.0 mEq./L (same as mmol/L) in plasma; critical limits are low 2.5-3.6 mmol/L or high of 5-8 mmol/L. In a sodium assay, ion specific electrodes have become stable and sensitive enough to be used to detect the levels expected in a patch (critical limits are 1/50th of that found in the blood after a few minutes skin contact. The normal values are 136-142 mEq./L (same as mmol/L) in plasma; critical limits are low of 110-137 mmol/L or heights of 145-170 mmol/L. In a triglycerides assay, triglycerides react with lipoprotein lipase giving glycerol that when phosphorylated produces peroxide in the presence of glycerol phosphate oxidate. This can be detected with a color dye and peroxidase with the noninvasive transdermal systems of the present invention. High levels of triglycerides are involved with nephrotic syndrome, coronary artery disease, diabetes and liver disease. Normal values are 10-190 mg/dl in serum. In an uric acid assay, uric acid reacts with uricase to form allantoic and peroxide that is detected by appropriate means. High levels of uric acid are associated with gout, leukemia, toxemia of pregnancy and sever renal impairment. Normal values are male 2.1-7.8 Mg./gl; female 2.(2.0-6.4 mg/dl. The critical limits are a high of 10-15 mg/dl (595-892 micromol/L).

reactant | bilirubin | CC=1C(=C(NC1/C=C\2/C(=C(C(=O)N2)C=C)C)CC3=C(C(=C(N3)/C=C\4/C(=C(C(=O)N4)C)C=C)C)CCC(=O)O)CCC(=O)O | C33H36N4O6
reactant | sulfanilic acid | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
product | azobilirubin | CCCC1=C(C(=CC2=NC(=O)C(=C2C=C)C)N=C1NNC3=CC=C(C=C3)S(=O)(=O)O)C | C22H24N4O4S
